US06747041B1
In 10 ml of THF were dissolved 1.50 g of pyridine-3,4-dicarboxylic acid anhydride and 2.75 g of 4-(heptafluoro-2-propyl)-2-methylaniline, and the reaction was carried out at room temperature for 3 hours. After completion of the reaction, the solvent was distilled off under reduced pressure and 20 ml of trifluoroacetic anhydride was added to the resulting residue, and the reaction was carried out with refluxing for 3 hours. After completion of the reaction, the solvent was distilled off under reduced pressure to obtain crude N-[4-(heptafluoro-2-propyl)-2-methylphenyl]pyridine-3,4-dicarboximide quantitatively.

reactant | pyridine-3,4-dicarboxylic acid anhydride | 1.50 g | N1=CC2=C(C=C1)C(=O)OC2=O | C7H3NO3
reactant | 4-(heptafluoro-2-propyl)-2-methylaniline | 2.75 g | FC(C(F)(F)F)(C(F)(F)F)C1=CC(=C(N)C=C1)C | C10H8F7N
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | N-[4-(heptafluoro-2-propyl)-2-methylphenyl]pyridine-3,4-dicarboximide | FC(C(F)(F)F)(C(F)(F)F)C1=CC(=C(C=C1)N1C(=O)C=2C=NC=CC2C1=O)C | C17H9F7N2O2
